US07105554B2
Phenol (100 mg), cesium carbonate (100 mg) and 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde (120 mg) were heated in dimethylformamide (1 ml) at approx. 80° C. for about 30 minutes. TLC showed that the reaction was almost complete so the reaction mixture was partitioned between diethyl ether and water. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to give an oil. The residue was purified via flash column chromatography, using dichloromethane:diethyl ether (10:1) as eluant to give 3-[(phenoxy)methyl]-4-phenylmethoxybenzaldehyde (90 mg) as off-white crystals. 1H NMR (CDCl3) δ 9.95 (s, 1H, CHO); 5.27 (s, 2H); 5.24 (s, 2H). TLC (silica gel): Rf=0.7 (petroleum ether: diethyl ether, 1:1).

reactant | Phenol | 100 mg | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 100 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde | 120 mg | CS(=O)(=O)OCC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C16H16O5S
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-[(phenoxy)methyl]-4-phenylmethoxybenzaldehyde | 90 mg | O(C1=CC=CC=C1)CC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C21H18O3
